US07115596B2
(3S)-3-(1,3-benzodioxol-5-yl)-4-(2-{4-[(4-morpholin-4-ylpyridin-2-yl)amino]butyl}-1,3-thiazol-4-yl)butanoic acid hydrochloride
(3S)-Ethyl 3-(1,3-benzodioxol-5-yl)-4-(2-{4-[(4-morpholin-4-ylpyridin-2-yl)amino]butyl}-1,3-thiazol-4-yl)butanoate hydrochloride (0.50 mmol) was dissolved in THF (2 mL) at 0° C. 1M LiOH (2.5 mL) was added, and the reaction was warmed to room temperature and stirred for 20 hours. The reaction was acidified to pH=1 with conc. HCl and concentrated in vacuo. The residue was purified via reverse phase HPLC using a gradient of 5–50% CH3CN/H2O/0.5% HCl over 30 minutes to obtain the desired product. Yield: 83 mg, 28% over 2 steps. 1H NMR (DMSO-d6) δ7.63–7.68 (m, 1H), 7.01–7.04 (m, 1H), 6.85–6.82 (m, 1H), 6.75–6.71 (m, 1H), 6.65–6.59 (m, 1H), 6.59–6.54 (m, 1H), 6.03–5.98 (m, 1H), 5.97 (s, 2H), 3.73–3.66 (m, 4H), 3.52–3.45 (m, 4H), 3.50–3.38 (m, 5H), 3.33–3.25 (m, 2H), 3.06–2.87 (m, 4H), 2.62–2.46 (m, 2H), 1.84–1.73 (m, 2H), 1.65–1.55 (m, 2H).

reactant | (3S)-Ethyl 3-(1,3-benzodioxol-5-yl)-4-(2-{4-[(4-morpholin-4-ylpyridin-2-yl)amino]butyl}-1,3-thiazol-4-yl)butanoate hydrochloride | 0.50 mmol | Cl.O1COC2=C1C=CC(=C2)[C@H](CC(=O)OCC)CC=2N=C(SC2)CCCCNC2=NC=CC(=C2)N2CCOCC2
reactant | LiOH | 1M, 2.5 mL | [Li+].[OH-]
reactant | HCl | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (3S)-3-(1,3-benzodioxol-5-yl)-4-(2-{4-[(4-morpholin-4-ylpyridin-2-yl)amino]butyl}-1,3-thiazol-4-yl)butanoic acid hydrochloride | Cl.O1COC2=C1C=CC(=C2)[C@H](CC(=O)O)CC=2N=C(SC2)CCCCNC2=NC=CC(=C2)N2CCOCC2 | InChI=1S/C27H32N4O5S.ClH/c32-27(33)15-20(19-4-5-23-24(14-19)36-18-35-23)13-21-17-37-26(30-21)3-1-2-7-28-25-16-22(6-8-29-25)31-9-11-34-12-10-31;/h4-6,8,14,16-17,20H,1-3,7,9-13,15,18H2,(H,28,29)(H,32,33);1H/t20-;/m0./s1
